US06281356B1
6-Methoxy-1-methyl-1H-indole (1.0 g, 6.19 mmol) was dissolved in ether (10 mL) and cooled to 0° C. Methyl chlorooxoacetate (1.17 mL, 12.4 mmol) was added dropwise. Stirring was continued at 0° C. for 6 h. The mixture was filtered and washed well with ether to give methyl (6-methoxy-1-methyl-1H-indol-3-yl)glyoxylate (621 mg, 41%).

reactant | 6-Methoxy-1-methyl-1H-indole | 6.19 mmol, 1.0 g | COC1=CC=C2C=CN(C2=C1)C | C10H11NO
reactant | Methyl chlorooxoacetate | 12.4 mmol, 1.17 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | ether | 10 mL | CCOCC | C4H10O
product | methyl (6-methoxy-1-methyl-1H-indol-3-yl)glyoxylate | 621 mg, 41% | COC1=CC=C2C(=CN(C2=C1)C)C(C(=O)OC)=O | C13H13NO4
